US05672760
Preparation of Compound 4: 4-[(2-Hydroxyethyl)ethylamino]-ethynylbenzene.
To a solution of 5.0 g, that is 15 mmole of 4-[(2-trimethylsiloxyethyl)ethylamino]trimethylsilylethynylbenzene, prepared in the previous step, dissolved in 60 mL of methanol-THF (1:1) mixture, 33 ml, that is 33 mmole, of 1M tetrabutylammonium fluoride in THF, from Aldrich Chemical Co. was added dropwise. The solution was stirred at room temperature for 1 hour. Ethyl ether was added and the mixture was extracted with water. The organic layer was separated, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The crude product was flash column chromatographed on silica gel with 35% ethyl acetate-hexane to produce 2.5 g of a viscous yellow oil at an 88% yield.

reactant | 4-[(2-trimethylsiloxyethyl)ethylamino]trimethylsilylethynylbenzene | 15 mmole | C[Si](OCCN(C1=CC=C(C=C1)C#C[Si](C)(C)C)CC)(C)C | C18H31NOSi2
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | methanol THF | 60 mL | CO.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | 4-[(2-Hydroxyethyl)ethylamino]-ethynylbenzene | 2.5 g, 88% yield | OCCN(C1=CC=C(C=C1)C#C)CC | C12H15NO
